US09360482B2
1-methylethyl {(3S)-3-[(4-bromophenyl)amino]butanoyl}carbamate
(3S)-3-[(4-bromophenyl)amino]butanamide (for a preparation see Intermediate 13, 24.9 g, 97 mmol) was taken up in Ethyl acetate (850 mL) and cooled to <−9° C. (internal). Isopropyl chloroformate (116 mL, 116 mmol, Aldrich) was added followed by slow addition of Lithium tert-butoxide (18.61 g, 232 mmol) in Tetrahydrofuran (THF) (232 mL) keeping the temperature below 0° C. The reaction was stirred for 30 mins then checked by LCMS which showed a complete reaction. The mixture was partitioned between EtOAc (1000 ml) and 2N HCl (2000 ml). The organic layer was washed with brine (2000 ml) and then dried with Na2SO4, filtered and concentrated to yield the product as a brown oil (17.9 g) LCMS (Method B): Rt=1.09, MH+=343

reactant | (3S)-3-[(4-bromophenyl)amino]butanamide | BrC1=CC=C(C=C1)N[C@H](CC(=O)N)C | C10H13BrN2O
reactant | Isopropyl chloroformate | 116 mmol, 116 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | Lithium tert-butoxide | 232 mmol, 18.61 g | CC(C)([O-])C.[Li+]
solvent | Ethyl acetate | 850 mL | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 232 mL | O1CCCC1 | C4H8O
product | 1-methylethyl {(3S)-3-[(4-bromophenyl)amino]butanoyl}carbamate | 17.9 g | BrC1=CC=C(C=C1)N[C@H](CC(=O)NC(OC(C)C)=O)C | C14H19BrN2O3
